US05334225
To 20 ml of ethanol, there were added 6.72 g of sodium methoxide, 20.0 g (169 mmol) of ethyl lactate and 6.95 g (56.5 mmol) of 6-amino-m-cresol, followed by heating under reflux for 3 hours. After cooling, 100 ml of water was added to the mixture and the crystals thus precipitated were filtered. The filtrate was extracted with 200 ml of ethyl acetate, washed with a saturated aqueous solution of common salt and dried over anhydrous Glauber's salt. After distilling off the solvent under reduced pressure, the solid thus obtained was subjected to silica gel column chromatography (Si60 manufactured by Merck; 230-400 mesh; 300 g; eluent: 2% methanol-chloroform). After distilling off the solvent from the 2,000-3,200 ml fraction under reduced pressure, the obtained solid was dissolved in 200 ml of ethyl acetate, washed with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt and dried over anhydrous Glauber's salt. After distilling off the solvent under reduced pressure, the residue was dried and thus 0.70 g (3.6 mmol) of N-(2-hydroxy-4-methylphenyl)-2-hydroxypropionamide was obtained as brown crystals. The yield was 6%.

reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium methoxide | 6.72 g | C[O-].[Na+]
reactant | ethyl lactate | 169 mmol, 20.0 g | C(C(O)C)(=O)OCC | C5H10O3
reactant | 6-amino-m-cresol | 56.5 mmol, 6.95 g | NC=1C=CC(=CC1O)C | C7H9NO
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | water | 100 ml | O | H2O
product | N-(2-hydroxy-4-methylphenyl)-2-hydroxypropionamide | 3.6 mmol, 0.70 g, yield was 6% | OC1=C(C=CC(=C1)C)NC(C(C)O)=O | C10H13NO3
